US04237055
Following the procedure for the synthesis of 8-t-butyldiphenylsiloxy-3,7-dimethyl-1-octen-3-ol, treatment of 1-benzyloxy-2-methyl-6-oxo-heptane (1.55 g) after silica gel chromatography with an ethyl acetate-hexane gradient as the eluent gives 8-benzyloxy-3,7-dimethyl-1-octen-3-ol (0.605 g) as a yellow oil:

reactant | 8-t-butyldiphenylsiloxy-3,7-dimethyl-1-octen-3-ol | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(C=C)(O)C)C | C26H38O2Si
reactant | 1-benzyloxy-2-methyl-6-oxo-heptane | 1.55 g | C(C1=CC=CC=C1)OCC(CCCC(C)=O)C | C15H22O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 8-benzyloxy-3,7-dimethyl-1-octen-3-ol | 0.605 g | C(C1=CC=CC=C1)OCC(CCCC(C=C)(O)C)C | C17H26O2
